US07482341B2
Step B]: 5-(4-Fluoro-benzyloxymethyl)-6-methyl-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-[5-(4-Fluoro-benzyloxymethyl)-6-methyl-pyridin-2-yl]-2,2-dimethyl-propionamide (0.78 g) and 3M aqueous NaOH (3.93 mL) as an amorphous orange solid (0.58 g). MS (ESI): 247.2 (MH+).

reactant | N-[5-(4-Fluoro-benzyloxymethyl)-6-methyl-pyridin-2-yl]-2,2-dimethyl-propionamide | 0.78 g | FC1=CC=C(COCC=2C=CC(=NC2C)NC(C(C)(C)C)=O)C=C1 | C19H23FN2O2
reactant | NaOH | 3M, 3.93 mL, 0.58 g | [OH-].[Na+]
product | 5-(4-Fluoro-benzyloxymethyl)-6-methyl-pyridin-2-ylamine | FC1=CC=C(COCC=2C=CC(=NC2C)N)C=C1 | C14H15FN2O
